US03931230
2-({2-[2-(Dimethylamino)ethyl]-1-methylindol-3-yl}-methyl)-2-phenylcyclohexanone Hydrochloride
The same procedure was used to methylate 37.5 g (0.1 mol) of 2({2-[2-(dimethylamino)ethyl]indol-3-yl}methyl)-2-phenylcyclohexanone. The residue obtained on evaporation of the ethereal extraction solvent was redissolved in ether and treated with ethereal hydrogen chloride. The crude hydrochloride salt was collected and recrystallized from 750 ml of isopropyl alcohol to give 25.8 g of product, mp 246°-247°dec.

reactant | 2({2-[2-(dimethylamino)ethyl]indol-3-yl}methyl)-2-phenylcyclohexanone | 0.1 mol, 37.5 g | CN(CCC=1NC2=CC=CC=C2C1CC1(C(CCCC1)=O)C1=CC=CC=C1)C | C25H30N2O
reactant | hydrogen chloride | Cl | ClH
reactant | ether | CCOCC | C4H10O
product | 2-({2-[2-(Dimethylamino)ethyl]-1-methylindol-3-yl}-methyl)-2-phenylcyclohexanone Hydrochloride | 25.8 g | Cl.CN(CCC=1N(C2=CC=CC=C2C1CC1(C(CCCC1)=O)C1=CC=CC=C1)C)C | InChI=1S/C26H32N2O.ClH/c1-27(2)18-16-24-22(21-13-7-8-14-23(21)28(24)3)19-26(17-10-9-15-25(26)29)20-11-5-4-6-12-20;/h4-8,11-14H,9-10,15-19H2,1-3H3;1H
